US04239901
30.5 g (0.112 mole) of 4-acetamido-3-bromophenylacetic acid are heated to 100° C. in 100 ml of 6 N hydrochloric acid until a clear solution forms, and the mixture is subsequently kept at 110° C. for one hour. Cooling is effected, followed by rendering alkaline with a solution of sodium hydroxide and acidifying with glacial acetic acid. The thus-formed flocculent precipitate is suction filtered, washed with water and dried to obtain 23.5 g (91.4% of theory) of 4-amino-3-bromophenylacetic acid (m.p. 139° to 140° C.).

reactant | 4-acetamido-3-bromophenylacetic acid | 0.112 mole, 30.5 g | C(C)(=O)NC1=C(C=C(C=C1)CC(=O)O)Br | C10H10BrNO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 6 N, 100 ml | Cl | ClH
product | 4-amino-3-bromophenylacetic acid | 23.5 g, 91.4% | NC1=C(C=C(C=C1)CC(=O)O)Br | C8H8BrNO2
